US08378095B2
2-(2,6-difluorophenyl)-5-(4-(2-(2-hydroxyethylamino)ethoxy)phenyl)oxazole-4-carboxamide
The title compound was prepared by reaction of 5-(4-(2-chloroethoxy)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide with 2-(benzylamino)ethanol, according to the procedure described in example S-1, step c, followed by deprotection with the H-cube hydrogenation system (full H2 mode, 10% Pd\C catalyst, 1 ml/min, 60° C., 0.05M in MeOH). 1H NMR (DMSO) δ 2.79 (2H, t), 3.17 (2H, t), 3.55 (2H, t), 4.20 (2H, t), 7.05-7.15 (2H, m), 7.35-7.45 (2H, m), 7.60-7.80 (3H, m), 8.20-8.30 (2H, m). LCMS (2) 2.17 min; m/z (ES+) 404.

reactant | 5-(4-(2-chloroethoxy)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide | ClCCOC1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C18H13ClF2N2O3
reactant | 2-(benzylamino)ethanol | C(C1=CC=CC=C1)NCCO | C9H13NO
solvent | MeOH | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 2-(2,6-difluorophenyl)-5-(4-(2-(2-hydroxyethylamino)ethoxy)phenyl)oxazole-4-carboxamide | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)OCCNCCO | C20H19F2N3O4
